### PR TITLE
chore(GroupTheory): make `smul_eq_self_of_mem_zpowers` `to_additive`

### PR DESCRIPTION
**Pull request by attilavjda**
This PR makes `smul_eq_self_of_mem_zpowers` amenable to `@[to_additive]` by reproving it via the action stabilizer and `Subgroup.zpowers_le`.

This allows the additive counterpart to be generated automatically, removing the hand-written additive proof and the `to_additive existing` workaround.

Used Aristotle AI to find this refactor and help write the proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 1]
```diff
@@ -819,18 +819,11 @@ theorem orderOf_dvd_of_mem_zpowers (h : y ∈ Subgroup.zpowers x) : orderOf y 
...
-  exact Function.IsFixedPt.perm_zpow (by exact hs) k -- Porting note: help elab'n with `by exact`
-
-theorem vadd_eq_self_of_mem_zmultiples {G : Type*} [AddGroup G] {x y : G} {α : Type*}
-    [AddAction G α] (hx : x ∈ AddSubgroup.zmultiples y) {a : α} (hs : y +ᵥ a = a) : x +ᵥ a = a :=
-  @smul_eq_self_of_mem_zpowers (Multiplicative G) _ _ _ α _ hx a hs
-
-attribute [to_additive existing] smul_eq_self_of_mem_zpowers
+    {a : α} (hs : y • a = a) : x • a = a :=
+  MulAction.mem_stabilizer_iff.1 <|
+    Subgroup.zpowers_le.2 (MulAction.mem_stabilizer_iff.2 hs) hx
```
Comment (tb65536) [inline Mathlib/GroupTheory/OrderOfElement.lean]: Can you make this one line, and use `.mp` and `.mpr`?

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 2]
```diff
@@ -819,18 +819,11 @@ theorem orderOf_dvd_of_mem_zpowers (h : y ∈ Subgroup.zpowers x) : orderOf y 
   rw [orderOf_dvd_iff_pow_eq_one]
   exact zpow_pow_orderOf
 
+@[to_additive]
 theorem smul_eq_self_of_mem_zpowers {α : Type*} [MulAction G α] (hx : x ∈ Subgroup.zpowers y)
```
Comment (tb65536) [inline Mathlib/GroupTheory/OrderOfElement.lean:824]: I'm not sure if `OrderOfElement` is necessarily the right file for this anymore?

**Comment by SnirBroshi** [comment]
Could you use backticks to make the title a bit easier to parse? e.g.
```
tag `smul_eq_self_of_mem_zpowers` with `to_additive`
```

File: Mathlib/GroupTheory/OrderOfElement.lean (hunk 2 above)
Comment (attilavjda) [reply Mathlib/GroupTheory/OrderOfElement.lean:824]: moving it to a stabilizer or zpowers file would pull in an import, what do you think, maybe leave it?

`Mathlib/GroupTheory/GroupAction/Basic.lean` the stabilizer file needs only one extra import

File: Mathlib/GroupTheory/OrderOfElement.lean (hunk 1 above)
Comment (attilavjda) [reply Mathlib/GroupTheory/OrderOfElement.lean]: thanks, done

File: Mathlib/GroupTheory/OrderOfElement.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/GroupTheory/OrderOfElement.lean:824]: Maybe try and see how large the import bump is?

Comment (attilavjda) [reply Mathlib/GroupTheory/OrderOfElement.lean:824]: Screenshot 2026-08-16 at 10 21 21

Comment (tb65536) [reply Mathlib/GroupTheory/OrderOfElement.lean:824]: A single import seems alright?

Comment (attilavjda) [reply Mathlib/GroupTheory/OrderOfElement.lean:824]: Yes, because it doesn't seem to make much difference in build time, and thematically this lemma seems to belong to the stabiliser file.
